US08357689B2
tert. butyl [2-(6-iodo-pyridazin-3-ylamino)-ethyl]-carbamate
800 mg N*1*-(6-iodo-pyridazin-3-yl)-ethane-1,2-diamine are dissolved in 20 ml of tetrahydrofuran, combined with 700 mg di-tert.-butyl-dicarbonate and heated for 3 h to 60° C. The solvent is then eliminated in vacuo and the residue is extracted from diethyl ether.

reactant | N*1*-(6-iodo-pyridazin-3-yl)-ethane-1,2-diamine | 800 mg | IC1=CC=C(N=N1)NCCN | C6H9IN4
reactant | di-tert.-butyl-dicarbonate | 700 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert. butyl [2-(6-iodo-pyridazin-3-ylamino)-ethyl]-carbamate | IC1=CC=C(N=N1)NCCNC(OC(C)(C)C)=O | C11H17IN4O2
